US07964204B2
Step A: Preparation of (8-bromo-5-quinolinyl)methyl acetate
A mixture of 8-bromo-5-methylquinoline (5.4 g, 24.3 mmol), N-bromosuccinimide (5.2 g, 29.2 mmol), and 2,2′-azobis(2-methylpropionitrile) (AIBN) (0.40 g, 24.3 mmol) in carbon tetrachloride (80 mL) was heated at reflux for 3 h under nitrogen atmosphere. The reaction mixture was cooled to room temperature and filtered, using hexane for rinsing. The filtrate was concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (50 mL), and then sodium acetate (4.6 g, 48.8 mmol) was added. The resulting mixture was stirred at 100° C. for 2 h under nitrogen atmosphere. The reaction mixture was cooled to room temperature, diluted with water and extracted with a mixture of ethyl acetate and hexane (3:7). The organic layer was washed with brine, dried (Na2SO4), and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel using hexanes/ethyl acetate as eluent to afford the title product as a pale yellow solid (4.8 g).

reactant | 8-bromo-5-methylquinoline | 24.3 mmol, 5.4 g | BrC=1C=CC(=C2C=CC=NC12)C | C10H8BrN
reactant | N-bromosuccinimide | 29.2 mmol, 5.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 24.3 mmol, 0.40 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | sodium acetate | 48.8 mmol, 4.6 g | C(C)(=O)[O-].[Na+]
solvent | carbon tetrachloride | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
product | (8-bromo-5-quinolinyl)methyl acetate | 4.8 g | C(C)(=O)OCC1=C2C=CC=NC2=C(C=C1)Br | C12H10BrNO2
